US05217952
To a solution of O-methoxymethyl-N-methyl-β-hydroxytyrosine (15.1 g) and bis(trimethylsilyl)acetamide (25 ml) in dichloromethane (150 ml) was added a solution of 2-nitrophenylsulfenyl chloride (11.2 g) in dichloromethane (50 ml). After stirring for 2 hours at 0° C., bis(trimethylsilyl)acetamide (10 ml) and 2-nitrophenylsulfenyl chloride (5.6 g) was added to the solution. The mixture was stirred for 3 hours at room temperature and added to 1N-sodium hydroxide (200 ml). The organic layer was washed with water (300 ml) and the aqueous solutions were combined. After the aqueous solution was acidified with diluted hydrochloric acid, the product was extracted with ethyl acetate (300 ml) and the extract was washed with water (100 ml×3). After the solution was dried over magnesium sulfate, the solvent was removed in vacuo to give O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-hydroxytyrosine (20.5 g).

reactant | O-methoxymethyl-N-methyl-β-hydroxytyrosine | 15.1 g | COCOC1=CC=C(C([C@H](NC)C(=O)O)O)C=C1 | C12H17NO5
reactant | bis(trimethylsilyl)acetamide | 25 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-nitrophenylsulfenyl chloride | 11.2 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
reactant | bis(trimethylsilyl)acetamide | 10 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-nitrophenylsulfenyl chloride | 5.6 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-hydroxytyrosine | 20.5 g | COCOC1=CC=C(C([C@H](N(SC2=C(C=CC=C2)[N+](=O)[O-])C)C(=O)O)O)C=C1 | C18H20N2O7S
